US04086242
Preparation of 1-(Ethylpropyl)-4-nitro-1H-benzotriazole
Over a 21/2 hour period, 210 g. of the 1-(1-ethylpropyl)benzotriazole is added to a mixture of 100 ml. of 90% nitric acid and 400 ml. of 23% oleum with stirring. The mixed acid solution is cooled in an ice-salt bath and the addition rate is such that a temperature of between 5°-10° C. is maintained. The reaction mixture is maintained at 5°-10° C. for an additional 11/2 hours, and then at 25° C. for one more hour. The reaction mixture is then poured over 2500 g. of ice with stirring. After 15 minutes of stirring, the brown precipitate is collected by filtration, washed with additional water and air dried. The crude product is then slurried with 500 ml. of 95% ethanol and then a second time with an additional 400 ml. of hot 95% ethanol. The slurry is cooled and product is collected by filtration and dried to yield 108.5 g. (45%) of brown solid, m.p. 129°-132° C. The analytical sample is recrystallized from chloroform-petroleum ether to give m.p. 132°-134° C.

reactant | 1-(1-ethylpropyl)benzotriazole | C(C)C(CC)N1N=NC2=C1C=CC=C2 | C11H15N3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | 1-(Ethylpropyl)-4-nitro-1H-benzotriazole | C(C)C(CC)N1N=NC2=C1C=CC=C2[N+](=O)[O-] | C11H14N4O2
